US05219847
I-3-1: Synthesis of hexyl 3-hexyloxypicolinate
To a mixture of 2.80 g (20 mmol) of 3-hydroxypicolinic acid, 4.13 g (25 mmol) of n-hexyl bromide and 30 ml of N,N,-dimethylformamide was added 2.8 g (0.02 mmol) of anhydrous potassium carbonate, and the mixture was stirred under heating at 100° C. for 4.5 hours. After cooling, 60 ml of ice-water was added, and the mixture extracted with ethyl acetate. The solution was subjected to evaporation under a reduced pressure and the residue separated by silica gel column chromatography (ethyl acetate:hexane=3:7), to obtain 2.60 g of a colorless oily substance (yield 40.5%).

reactant | 3-hydroxypicolinic acid | 20 mmol, 2.80 g | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | n-hexyl bromide | 25 mmol, 4.13 g | C(CCCCC)Br | C6H13Br
reactant | potassium carbonate | 0.02 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N,-dimethylformamide | 30 ml | CN(C)C=O | C3H7NO
product | hexyl 3-hexyloxypicolinate | yield 40.5% | C(CCCCC)OC=1C(=NC=CC1)C(=O)OCCCCCC | C18H29NO3
